US08871187B2
1-2-2 3-Butoxy-3-phenyl-1-(tert-butoxycarbonyl)-azetidine
A solution of 1 g (4.0 mmol) of 3-hydroxy-3-phenyl-1-(tert-butoxycarbonyl)azetidine dissolved in 5 ml of DMF is added dropwise to a suspension of 300 mg of 60% NaH in 3 ml of DMF, immersed in a bath at 0° C. 2.5 ml of n-iodobutane are added dropwise. The reaction medium is left to stir at 0° C. for 15 minutes and 72 hours at ambient temperature. The medium is hydrolysed by addition of a saturated solution of ammonium chloride, followed by extraction with ethyl acetate. The organic phase is dried and evaporated to dryness. The crude product obtained is purified on silica in a 7/3 heptane/ethyl acetate mixture. 500 mg in the form of a light yellow oil are obtained with a yield of 41%.

reactant | 3-hydroxy-3-phenyl-1-(tert-butoxycarbonyl)azetidine | 4.0 mmol, 1 g | OC1(CN(C1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C14H19NO3
reactant | NaH | 300 mg | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 3-Butoxy-3-phenyl-1-(tert-butoxycarbonyl)-azetidine | yield of 41% | C(CCC)OC1(CN(C1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C18H27NO3
